US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3-chloro-phenoxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-3-[4-(3-Chloro-phenoxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (0.020 g) dissolved in THF (0.3 mL) and MeOH (0.3 mL) and 0.3 mL of 2.0 N LiOH was added at 0° C. and stirred at that temperature for 30 minutes. The pH was adjusted to 6-7, and the mixture was extracted with EtOAc, dried with (Na2SO4), and evaporated and dried under vacuum to get the title compound (0.015 g). LCMS (m/z): 814.

reactant | (S)-2-{[(3S,8S)-3-[4-(3-Chloro-phenoxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 0.020 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OC3=CC(=CC=C3)Cl)C(=O)C=3N=C(OC3C)C)=O | C47H43ClN4O8
reactant | MeOH | 0.3 mL | CO | CH4O
reactant | LiOH | 2.0 N, 0.3 mL | [Li+].[OH-]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | (S)-2-{[(3S,8S)-3-[4-(3-chloro-phenoxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 0.015 g | ClC=1C=C(OC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C=3N=C(OC3C)C)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1 | C46H41ClN4O8
